### PR TITLE
Generalize exp_ineq1 and add exp_ineq1_le, which holds forall Reals.

### PR DESCRIPTION
**Pull request by shinnar**
Adds exp_ineq2, the negative counterpart to exp_ineq1.
Adds exp_ineq, which holds for all reals (but is a <= instead of a <).

Rpower currently defines exp_ineq1 : forall x:R, 0 < x -> 1 + x < exp x.
This PR adds the corresponding lemma for negative R: exp_ineq2 : forall x:R, 0 > x -> 1 + x < exp x
and the (slightly weaker) version for all R: exp_ineq : forall x:R, 1 + x <= exp x
These minor additions are nice to add for completeness, and are useful for users.

This proof was mostly done by Barry Trager (@bmtrager), and is being submitted with his permission (and at his request).

**Kind:** documentation / bug fix / feature / performance / infrastructure.
library addition / minor feature 

Fixes / closes #????

- [ ] Added / updated test-suite

- [ ] Corresponding documentation was added / updated (including any warning and error messages added / removed / modified).
- [x] Entry added in the changelog (see https://github.com/coq/coq/tree/master/doc/changelog#unreleased-changelog for details).

### CODE REVIEW

**Comment by Zimmi48** [comment]
> This proof was mostly done by Barry Trager (@bmtrager), and is being submitted with his permission (and at his request).

Note that you can use `Co-authored-by:` to credit them. See https://github.blog/2018-01-29-commit-together-with-co-authors/

Also, this addition to the standard library, as any addition, will need a changelog entry. See https://github.com/coq/coq/tree/master/doc/changelog#how-to-add-an-entry

File: theories/Reals/Rpower.v [hunk 1]
```diff
@@ -233,6 +233,44 @@ Proof.
...
 Qed.
 
+Lemma exp_gt1 (x : R) : 0 < x -> 1 < exp x.
+Proof.
+  intro xgt.
+  generalize (exp_ineq1 x xgt); intros.
+  apply Rlt_trans with (r2 := 1+x); lra.
+Qed.
+
+Lemma exp_ineq2 (x : R) : 0 > x -> 1 + x < exp x.
```
Comment (thery) [inline theories/Reals/Rpower.v:243]: Maybe we should only have exp_ineq1 be : 

Lemma exp_ineq1 (x : R) : x <> 0  -> 1 + x < exp x.

**Comment by retzger77** [comment]
Thank 🧒

**Comment by shinnar** [comment]
should I update the PR as suggested above?  Note that I believe it would be a (minorly) breaking change (hence the original proposal).

**Comment by thery** [comment]
`exp_ineq`1 should not be much used, so generalize it to the whole line except zero should be ok.

**Comment by Zimmi48** [comment]
It turns out that there is *one* external project among the ones we test in CI that was using this lemma (https://gitlab.inria.fr/coquelicot/coquelicot/-/blob/master/theories/ElemFct.v#L604). Since his maintainer is also a maintainer of the real library, let's ping him here (@silene).

What are the paths to making a backward-compatible fix for this project possible? A `#[ deprecated(since="8.14", note="Use exp_ineq1_pos instead.") ] Notation exp_ineq1 := exp_ineq1_pos.`?

Note that in the current state of this PR (as opposed to the initial state), the type of changelog entry should be **Changed** instead of **Added**.

**Comment by thery** [comment]
Looks like @silene could use the new `exp_ineq`!.
To be backward compatible one possibility is to replace 
```by   apply Rlt_le, exp_ineq1 ```
with
``` apply Rlt_le, exp_ineq1; lra ``` or
```  apply Rlt_le, exp_ineq1; auto with real ``` if one doesn't want to import lra.

**Comment by thery** [comment]
Maybe we could get rid of the `_neg` and `_pos` theorems that has not so useful and directly prove `ineq1`

```
Lemma exp_ineq1 : forall x : R, x <> 0 -> 1 + x < exp x.
Proof.
intros x xdz; destruct (Rtotal_order x 0)  as [xlz|[xez|xgz]].
- destruct (MVT_cor2 (fun x => exp x - (x + 1)) (fun x => exp x - 1) x 0 xlz)
       as [c [HH1 HH2]].
  + intros.
    apply derivable_pt_lim_minus; [apply derivable_pt_lim_exp | ].
    replace (1) with (1 + 0) at 1 by lra.
    apply derivable_pt_lim_plus;
      [apply derivable_pt_lim_id | apply derivable_pt_lim_const].
  + rewrite exp_0 in HH1.
    assert (0 < x * exp c - x); [| lra].
    assert (x * exp 0  < x * exp c); [| rewrite exp_0 in H; lra].
    apply Rmult_lt_gt_compat_neg_l; auto.
    now apply exp_increasing.
- now case xdz.
- intros; apply Rplus_lt_reg_r with (- exp 0).
  change (exp x + - exp 0) with (exp x - exp 0).
  destruct (MVT_cor1 exp 0 x derivable_exp xgz) as [y [-> [Pj Lyx]]].
  replace (derive_pt exp y (derivable_exp y)) with (exp y).
  + assert (H2 : x * exp 0 < x * exp y).
    * apply Rmult_lt_compat_l; auto.
      now apply exp_increasing.
    * rewrite exp_0 in H2 |- *; lra.
  + now symmetry ; apply derive_pt_eq_0; apply derivable_pt_lim_exp.
Qed.
```

**Comment by thery** [comment]
ok I've submitted the overlay for coquelicot . As soon as @silene accepts it I think we can merge
Ps: @shinnar I've modified  the proof of `exp_ineq1` in my comment I think it looks more symmetrical now

**Comment by shinnar** [comment]
@thery updated.  Given that the current form of the proof is yours, should I include some form of attribution in the commit message?  If so, what?

**Comment by Zimmi48** [comment]
One way is to put a "with help from" or "with review of Laurent Théry" in the changelog entry.

**Comment by thery** [comment]
@shinnar the proof is yours I have just reshaped it.

**Review by thery — APPROVED** [review]

**Comment by shinnar** [comment]
> @shinnar the proof is yours I have just reshaped it.

@thery Would you like to be included in the changelog?  I amended it to read
"by Avi Shinnar and Barry Trager, with help from Laurent Théry", which seems appropriate.
If you would prefer to not be credited, I can revert the change.

**Comment by thery** [comment]
fine with me, thanks for your contribution!

**Comment by thery** [comment]
ok  the overlay is in coquelicot  [#4](https://gitlab.inria.fr/coquelicot/coquelicot/-/merge_requests/4), so we can merge

**Comment by thery** [comment]
@coqbot: merge now

**Comment by thery** [comment]
@coqbot: merge now

File: doc/changelog/10-standard-library/13582-exp_ineq.rst [hunk 2]
```diff
@@ -0,0 +1,9 @@
+- **Changed:**
+  Minor Changes to Rpower:
+  Generalizes exp_ineq1 to hold for all non-zero numbers.
+  Adds exp_ineq1_le, which holds for all reals (but is a <= instead of a <).
+
+  (`#13582 <https://github.com/coq/coq/pull/13582>`_,
+  by Avi Shinnar and Barry Trager, with help from Laurent Théry
+
```
Comment (olaure01) [inline doc/changelog/10-standard-library/13582-exp_ineq.rst:8]: The white line an final parenthesis seems to generate errors when adding new changelogs after this one #13671 .
If I am right and since this is already merged, what is the best way to make a modification? create an adhoc new PR?

Comment (Zimmi48) [reply doc/changelog/10-standard-library/13582-exp_ineq.rst:8]: Yes, you are right about the diagnosis. You can either open an ad hoc PR or fix it in your own PR, especially if your own PR shouldn't take too long to merge.
